US08211911B2
4-Chloro-7-benzyloxy-6-methoxy-quinoline (WO2008112407, 1.5 g) was mixed with DMAP (1.5 eq), 2-methyl-4-fluoro-5-hydroxyindole (WO0047212) (1 eq) in dioxane (20 ml). The reaction was refluxed for three days and diluted with EtOAc, water and extracted with EtOAc three times. The combined organic layer was washed with water, brine and dried. The solution was evaporated and purified with silica gel column to give 4-(4-fluoro-2-methyl-1H-indol-5-yloxy)-6-methoxy-7-benzyloxyquinoline (600 mg).

reactant | 4-Chloro-7-benzyloxy-6-methoxy-quinoline | 1.5 g | ClC1=CC=NC2=CC(=C(C=C12)OC)OCC1=CC=CC=C1 | C17H14ClNO2
reactant | 2-methyl-4-fluoro-5-hydroxyindole | 1 eq | CC=1NC2=CC=C(C(=C2C1)F)O | C9H8FNO
catalyst | DMAP | 1.5 eq | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 4-(4-fluoro-2-methyl-1H-indol-5-yloxy)-6-methoxy-7-benzyloxyquinoline | 600 mg | FC1=C2C=C(NC2=CC=C1OC1=CC=NC2=CC(=C(C=C12)OC)OCC1=CC=CC=C1)C | C26H21FN2O3
